US08536351B2
A portion of the ylide (0.85 g, 2.21 mmol), 2,6-diethyl-4-methylphenylboronic acid (0.467 g, 2.43 mmol), palladium acetate (0.025 g, 0.11 mmol), tetrabutylammonium bromide (0.734 g, 2.21 mmol) and lithium hydroxide monohydrate (0.278 g, 6.63 mmol) are added to a mixture of 1,2-dimethoxyethane (24 ml) and water (6 ml) and the mixture is heated at 50° C. for 5¾ hours. The mixture is cooled to room temperature, filtered through diatomaceous earth to remove the catalyst, and the filtrate is partitioned between ethyl acetate and water. The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and the filtrate is evaporated in vacuo. The residue is further purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane to give 2-(2,6-diethyl-4-methylphenyl)-5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione.

reactant | 2,6-diethyl-4-methylphenylboronic acid | 2.43 mmol, 0.467 g | C(C)C1=C(C(=CC(=C1)C)CC)B(O)O | C11H17BO2
reactant | lithium hydroxide monohydrate | 6.63 mmol, 0.278 g | O.[OH-].[Li+]
reactant | 1,2-dimethoxyethane | 24 ml | COCCOC | C4H10O2
catalyst | tetrabutylammonium bromide | 2.21 mmol, 0.734 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.11 mmol, 0.025 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 6 ml | O | H2O
product | 2-(2,6-diethyl-4-methylphenyl)-5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione | C(C)C1=C(C(=CC(=C1)C)CC)C1C(CC(CC1=O)C1COCC1)=O | C21H28O3
